US05840732
Synthesis of 5-(4-hydroxybutyloxy)imidazo[1,2-a]pyridine
In a nitrogen stream, 8.0 g (200 mmol) of 60% oily sodium hydride was added to a solution of 18.90 g (100 mmol) of 5-chloroimidazo[1,2-a]pyridine hydrochloride in 200 ml of dimethyl sulfoxide at 0° C., followed by stirring for 15 minutes. To this mixture, 20.44 g (100 mmol) of 4-hydroxy-1-t-butyldimethylsiloxybutane was added, followed by stirring room temperature for 5 hours. The reaction mixture was poured into water and extracted with ethyl acetate. The organic layer was washed with water and dried, after which the solvent was distilled off. The residue was purified by column chromatography (eluent: ethyl acetate) to yield 3.73 g (11.6%, orange oily substance) of the desired product.

reactant | sodium hydride | 200 mmol, 8.0 g | [H-].[Na+]
reactant | 5-chloroimidazo[1,2-a]pyridine hydrochloride | 100 mmol, 18.90 g | Cl.ClC1=CC=CC=2N1C=CN2
reactant | 4-hydroxy-1-t-butyldimethylsiloxybutane | 100 mmol, 20.44 g | OCCCCO[Si](C)(C)C(C)(C)C | C10H24O2Si
reactant | water | O | H2O
solvent | dimethyl sulfoxide | 200 ml | CS(=O)C | C2H6OS
product | 5-(4-hydroxybutyloxy)imidazo[1,2-a]pyridine | OCCCCOC1=CC=CC=2N1C=CN2 | C11H14N2O2
